US08222416B2
A mixture of 2-{4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-propan-2-ol (150 mg, 0.41 mmol) and 10% palladium on activated carbon (0.2 g) in methanol (50 mL) was heated at 50° C. under hydrogen (50 psi) for 5 h. After cooling to room temperature, the catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo. The residue was purified using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) to afford 2-{4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-phenyl}-propan-2-ol (60 mg, 40%) as a white solid: LC/MS m/e calcd for C23H27FN2O [M+H]+ 367.48, observed 367.3; 1H NMR (400 MHz, MeOD) 1H NMR (400 MHz, MeOD) δ ppm 7.96 (t, J=2.5 Hz, 1H), 7.61 (dd, J=9.2, 2.5 Hz, 1H), 7.43 (d, J=8.3 Hz, 2H), 7.28 (d, J=8.3 Hz, 2H), 6.31 (s, 1H), 4.14 (t, J=7.7 Hz, 1H), 2.05-2.25 (m, 2H), 1.57-1.89 (m, 5H), 1.51 (s, 6H), 1.43-1.50 (m, 2H), 1.21 (d, J=8.6 Hz, 2H).

reactant | 2-{4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-propan-2-ol | 0.41 mmol, 150 mg | C1(CCCC1)C=C(C1=CC=2C(=NC=C(C2)F)N1)C1=CC=C(C=C1)C(C)(C)O | C23H25FN2O
catalyst | palladium on activated carbon | 0.2 g | [Pd] | Pd
solvent | methanol | 50 mL | CO | CH4O
product | 2-{4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-ethyl]-phenyl}-propan-2-ol | 60 mg, 40% | C1(CCCC1)CC(C1=CC=2C(=NC=C(C2)F)N1)C1=CC=C(C=C1)C(C)(C)O | C23H27FN2O
